US07700625B2
Step 4: Synthesis of 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid
To a solution of 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid benzyl ester (40.8 g, 87.9 mmol) in THF-MeOH-water (3:1:1, 300 mL total) was added lithium hydroxide (8.42 g, 352 mmol). The mixture was heated at 50° C. for 16 h, allowed to cool to ambient and then diluted with water (300 mL). The mixture was taken to pH˜1 using conc. HCl (˜30 mL) and then extracted with EtOAc (2×200 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered and reduced in vacuo. The solid residue was taken up in P.E-MeOH (9:1, 300 mL total), the slurry stirred for 1 h at ambient and the solid collected by filtration. The solid was dried in vacuo to give the title compound (26.8 g) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) 12.30 (s, 1H), 7.61 (s, 1H), 7.53 (d, J=7.0 Hz, 2H), 7.47-7.31 (m, 8H), 6.94 (s, 1H), 5.23 (d, J=14.0 Hz, 4H), 5.08 (d, J=9.0 Hz, 2H), 2.04 (s, 3H).

reactant | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid benzyl ester | 87.9 mmol, 40.8 g | C(C1=CC=CC=C1)OC(C1=C(C=C(C(=C1)C(=C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C31H28O4
reactant | lithium hydroxide | 352 mmol, 8.42 g | [OH-].[Li+]
reactant | HCl | ˜30 mL | Cl | ClH
solvent | THF MeOH water | 300 mL | C1CCOC1.CO.O
solvent | water | 300 mL | O | H2O
product | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid | 26.8 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C24H22O4
